US06660742B2
Anhydrous K2CO3 (0.50 g, 3.68 mmol) was added to a solution of ethyl 2-[4-hydroxy-2-nitronaphthalen-1-yl]acetate (0.42 g, 1.53 mmol) and benzyl bromide (0.44 mL, 3.68 mmol) in acetone (4 mL) at room temperature, and the mixture was stirred overnight. The reaction mixture was filtered, and the filtrate was concentrated. The residue was diluted with AcOEt (50 mL), and to the mixture was added N-methypiperazine (3 mL) to remove any excess benzyl bromide. The mixture was washed with water (10 mL), 1 M HCl (10 mL), saturated aqueous NaHCO3 (10 mL) and saturated aqueous NaCl (10 mL), and then dried (Na2SO4) and evaporated to yield ethyl 2-[4-benzyloxy-2-nitronaphthalen-1-yl]acetate (0.35 g, 63%) as a yellow solid. Mp 128-130° C.; 1H NMR (CDCl3, 500 MHz) δ 8.44 (dd, 0.5, 8.0, 1H), 8.10 (d, 8.5, 1H), 7.71 (t, 7.0, 1H), 7.66 (t, 7.0, 1H), 7.54 (d, 7.0, 2H), 7.46 (t, 7.5, 2H), 7.43 (s, 1H), 7.40 (t, 7.0, 1H), 5.32 (s, 2H), 4.33 (s, 2H), 4.21 (q, 7.0, 2H), 1.27 (t, 7.0, 3H); EIMS m/z 365 (M+); IR (neat) νmax 2980, 1725, 1592, 1524, 1512, 1469, 1451, 1426, 1371, 1331, 1252, 1202, 1159, 1111, 1022, 842, 770, 756, 724, 690 cm−1.

reactant | K2CO3 | 3.68 mmol, 0.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-[4-hydroxy-2-nitronaphthalen-1-yl]acetate | 1.53 mmol, 0.42 g | OC1=CC(=C(C2=CC=CC=C12)CC(=O)OCC)[N+](=O)[O-] | C14H13NO5
reactant | benzyl bromide | 3.68 mmol, 0.44 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | ethyl 2-[4-benzyloxy-2-nitronaphthalen-1-yl]acetate | 0.35 g, 63% | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)CC(=O)OCC)[N+](=O)[O-] | C21H19NO5
